US07402595B2
6-bromo-4-phenyl-3-propionyl-2-[4-(1H-tetrazol-5-yl)benzyl]-2H-isoquinolin-1-one
To a suspension of 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzonitrile (1.89 g) in toluene (80 ml) was added trimethyltin azide (2.47 g) and the mixture was stirred at 110° C. for 4 days. Water (50 ml) and methanol (50 ml) were added at room temperature, and the precipitated crystals were collected by filtration to give the title compound (1.19 g, 58%).

reactant | 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzonitrile | 1.89 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C#N)C=C1)C(CC)=O)C1=CC=CC=C1 | C26H19BrN2O2
reactant | trimethyltin azide | 2.47 g | C[Sn](C)(C)N=[N+]=[N-]
reactant | Water | 50 ml | O | H2O
reactant | methanol | 50 ml | CO | CH4O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-4-phenyl-3-propionyl-2-[4-(1H-tetrazol-5-yl)benzyl]-2H-isoquinolin-1-one | 1.19 g, 58% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)C1=NN=NN1)C(CC)=O)C1=CC=CC=C1 | C26H20BrN5O2
